US07419984B2
6-(5-Chloro-2-methyl-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine and 4-chloroaniline provided the title compound (78% yield). 1H NMR (DMSO-d6) δ 2.34 (s, 3H, CH3), 6.10 (s, 1H, Ar), 6.45 (s, 2H, NH2), 7.30-7.33 (m, 3H, Ar), 7.37 (dd, 1H, J=8.1 Hz, J=2.3 Hz, Ar), 7.41 (d, 1H, J=2.2 Hz, Ar), 7.80-7.83 (m, 2H, Ar), 9.35 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)C)N | C11H9Cl2N3
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 6-(5-Chloro-2-methyl-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 78% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl)C | C17H14Cl2N4
